US09446040B2
To a solution of N-[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-amine in dichloromethane was added triethyl amine (1.5 eq.) followed by di-ter-butyl-dicarbonate (1.5 eq.) and resulting reaction mixture was stirred for 4 hrs at ambient temperature. Reaction mixture was then evaporated completely and dissolved in dichloromethane, washed with water and organic layer was dried over sodium sulfate and concentrated under reduced pressure to afford tert-butyl[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate.

reactant | N-[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-amine | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCNC1CCOCC1 | C21H28N4O
reactant | triethyl amine | 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | di-ter-butyl-dicarbonate | 1.5 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate | C(C)(C)(C)OC(N(C1CCOCC1)CCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CC)=O | C26H36N4O3
